US09102642B2
A mixture of 4-(4-bromo-2-ethylphenyl)-2,2,6,6,-tetramethylpyran-3,5-dione (1.00 g, 2.8 mmol), copper(I) iodide (0.108 g, 0.57 mmol), and L-proline (0.033 g, 0.28 mmol) in 1M aqueous sodium hydroxide solution (8.8 ml) is heated at 200° C. under microwave irradiation, until the reaction is judged to be complete by LCMS. The mixture is cooled to room temperature, diluted with ethyl acetate and 2 M aqueous hydrochloric acid and filtered through a plug of diatomaceous earth, washing with ethyl acetate. The organic phase is collected, and the aqueous phase is extracted with ethyl acetate. The organic solutions are combined, washed with brine, dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated under reduced pressure. The residue is purified by column chromatography on silica gel to give 4-(2-ethyl-4-hydroxyphenyl)-2,2,6,6-tetramethylpyran-3,5-dione.

reactant | 4-(4-bromo-2-ethylphenyl)-2,2,6,6,-tetramethylpyran-3,5-dione | 2.8 mmol, 1.00 g | BrC1=CC(=C(C=C1)C1C(C(OC(C1=O)(C)C)(C)C)=O)CC | C17H21BrO3
reactant | L-proline | 0.28 mmol, 0.033 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | sodium hydroxide | 1M, 8.8 ml | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 2 M | Cl | ClH
catalyst | copper(I) iodide | 0.57 mmol, 0.108 g | [Cu]I
product | 4-(2-ethyl-4-hydroxyphenyl)-2,2,6,6-tetramethylpyran-3,5-dione | C(C)C1=C(C=CC(=C1)O)C1C(C(OC(C1=O)(C)C)(C)C)=O | C17H22O4
